US07605161B2
Synthesis of 1-pentyl-3-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridin-3-yl}urea
Pentylisocyanate (0.034 g, 0.30 mmol) was added slowly to a solution of [4-(5-aminopyridin-2-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone (0.050 g, 0.15 mmol) in dichloromethane (2 mL) at 0° C. The mixture was stirred at 25° C. for 16 h. After removal of dichloromethane, the residue was purified by column chromatography to yield the title compound as a light purple solid (24.5 mg, 35% yield). 1H NMR (300 MHz, CDCl3) δ 7.99, 7.71, 7.58, 7.33, 6.62, 6.28, 4.69, 3.91, 3.58, 3.43, 3.28, 3.18, 1.45, 1.27, 0.88. MS (ES+) m/z 464.2 (M+1).

reactant | Pentylisocyanate | 0.30 mmol, 0.034 g | C(CCCC)N=C=O | C6H11NO
reactant | [4-(5-aminopyridin-2-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 0.15 mmol, 0.050 g | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17F3N4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-pentyl-3-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridin-3-yl}urea | 24.5 mg, 35% yield | C(CCCC)NC(=O)NC=1C=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H28F3N5O2
